US06759554B2
(S)—O-(3,5-Dimethylphenyl)mandelic Acid
An oven-dried resealable Schlenk tube was charged with CuI (20 mg, 0.105 mmol, 10 mol %), (S)-mandelic acid (190 mg, 1.25 mmol), K2CO3 (430 mg, 3.11 mmol), evacuated and backfilled with argon. Dodecane (235 μL), 5-iodo-m-xylene (150 μL, 1.04 mmol), and N,N-dimethylacetamide (1.0 mL) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 23 h. The resulting pale yellow suspension was poured into 20 mL of 10% aq HCl and extracted with 3×20 mL of dichloromethane. The combined organic phase was dried (Na2SO4), concentrated, and the residue was purified by flash chromatography on silica gel (2×15 cm; hexane−ethyl acetate−acetic acid 40:20:1; 15 mL fractions). Fractions 7-13 provided 91 mg (34% yield) of the product as a white solid. 1H NMR (400 MHz, CDCl3): δ 10.65 (br s, 1H), 7.64−7.57 (m, 2H), 7.47−7.36 (m, 3H), 6.67 (s, 1H), 6.61 (s, 2H), 5.65 (s, 1H), 2.28 (s, 6H).

reactant | (S)-mandelic acid | 1.25 mmol, 190 mg | C([C@@H](O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | K2CO3 | 3.11 mmol, 430 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Dodecane | 235 μL | CCCCCCCCCCCC | C12H26
reactant | 5-iodo-m-xylene | 1.04 mmol, 150 μL | IC=1C=C(C=C(C1)C)C | C8H9I
reactant | HCl | 20 mL | Cl | ClH
catalyst | CuI | 0.105 mmol, 20 mg | [Cu]I
solvent | N,N-dimethylacetamide | 1.0 mL | CN(C(C)=O)C | C4H9NO
product | (S)—O-(3,5-Dimethylphenyl)mandelic Acid | 91 mg, 34% yield | CC=1C=C(C=C(C1)C)OC([C@@H](O)C1=CC=CC=C1)=O | C16H16O3
